US08048862B2
A mixture of 3-isopropyl-1H-imidazo[4,5-c]pyridin-2(3H)-one (0.5 g, 2.82 mmol.) in POCl3 (5 mL) was refluxed for 16 hrs. Then the reaction mixture was poured into ice water and basified with NH4OH to pH=7˜8. The mixture was extracted with ethyl acetate. The organic layer was dried over Na2SO4 and evaporated to afford crude 2-chloro-3-isopropyl-3H-imidazo[4,5-c]pyridine which was used directly for the next step (150 mg, 27%).

reactant | 3-isopropyl-1H-imidazo[4,5-c]pyridin-2(3H)-one | 2.82 mmol, 0.5 g | C(C)(C)N1C(NC2=C1C=NC=C2)=O | C9H11N3O
reactant | NH4OH | [NH4+].[OH-]
reactant | POCl3 | 5 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-3-isopropyl-3H-imidazo[4,5-c]pyridine | ClC1=NC2=C(C=NC=C2)N1C(C)C | C9H10ClN3
